US07851473B2
A solution of the mixture of 2-bromo-4-phenylthiophene and 2-bromo-3-phenylthiophene (6.00 g, 25.0 mmol), 1-ethoxycarbonylpiperazine (3.96 g, 25.0 mmol), sodium tert-butoxide (3.48 g, 36.2 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (468 mg, 0.750 mmol) and tris(dibenzylideneacetone)dipalladium (0) (544 mg, 0.594 mmol) in toluene (50 ml) was stirred at 100° C. for 48 hours. Insolubles were filtered off and the filtrate was concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to obtain ethyl 4-(4-phenyl-2-thienyl)piperazine-1-carboxylate (365 mg, 4.61%) as an oil.

reactant | 2-bromo-4-phenylthiophene | BrC=1SC=C(C1)C1=CC=CC=C1 | C10H7BrS
reactant | 2-bromo-3-phenylthiophene | 25.0 mmol, 6.00 g | BrC=1SC=CC1C1=CC=CC=C1 | C10H7BrS
reactant | 1-ethoxycarbonylpiperazine | 25.0 mmol, 3.96 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | sodium tert-butoxide | 36.2 mmol, 3.48 g | CC(C)([O-])C.[Na+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.750 mmol, 468 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.594 mmol, 544 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 4-(4-phenyl-2-thienyl)piperazine-1-carboxylate | 365 mg, 4.61% | C1(=CC=CC=C1)C=1C=C(SC1)N1CCN(CC1)C(=O)OCC | C17H20N2O2S
